US05990102
trans 3-Methyl-4-(benzylthio)-1-(4-phenyl-2-oxobutyl)azetidin-2-one
A solution of trans-3-methyl-4-(benzylthio)azetidin-2-one (0.73 g, 3.5 mmol) in dry THF (5 ml) was added dropwise over 5 minutes to a suspension of sodium hydride (60% dispersion in oil, 0.15 g, 3.8 mmol) in dry THF (10 ml) under a nitrogen atmosphere at -10° C. The mixture was stirred for 10 minutes at -10° C. and 1-bromo-4-phenylbutan-2-one (0.79 g, 3.5 mmol) in dry THF (10 ml) was added over 5 minutes at -10° C. The mixture was stirred at room temperature for 30 minutes and poured into ice/water. The layers were separated and the aqueous was extracted with ethyl acetate. The combined organics were washed with brine, dried (MgSO4) and evaporated to an oil. This was purified by flash chromatography on silica gel eluting with petroleum ether 40-60° C./ethyl acetate 3:1, 2:1 to give a colourless solid (0.34 g, 27%) mp 69-71° C.

reactant | trans-3-methyl-4-(benzylthio)azetidin-2-one | 3.5 mmol, 0.73 g | C[C@@H]1C(N[C@H]1SCC1=CC=CC=C1)=O | C11H13NOS
reactant | sodium hydride | 3.8 mmol, 0.15 g | [H-].[Na+]
reactant | 1-bromo-4-phenylbutan-2-one | 3.5 mmol, 0.79 g | BrCC(CCC1=CC=CC=C1)=O | C10H11BrO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | trans 3-Methyl-4-(benzylthio)-1-(4-phenyl-2-oxobutyl)azetidin-2-one | 0.34 g, 27% | C[C@@H]1C(N([C@H]1SCC1=CC=CC=C1)CC(CCC1=CC=CC=C1)=O)=O | C21H23NO2S
